US04985419
1.4N ethereal hydrochloric acid (1.13 cc) is added dropwise and with vigorous stirring to a solution of 2-(3a, 4, 5, 6, 7, 7a-hexahydro-1H-benzimidazol-2-yl)-10-[1-(1-pyrrolidinyl)-2-propyl]phenothiazine, L series (0.34 g) in boiling ethyl ether (34 cc). The suspension obtained is stirred for one hour. The precipitate is filtered off and the cake is washed with ethyl ether (2×10 cc) and then dried at 40° C. under reduced pressure (10 mm Hg; 1.3 kPa). 2-(3a, 4, 5, 6, 7, 7a-Hexahydro-1H-benzimidazol-2-yl)-10-[1-(1-pyrrolidinyl)-2-propyl]-phenothiazine dihydrochloride, L series (0.18 g), m.p. 198°-199° C., is thereby obtained, the NMR characteristics of which are identical to those of the product obtained in Example 85.

reactant | hydrochloric acid | 1.4N, 1.13 cc | Cl | ClH
reactant | 2-(3a, 4, 5, 6, 7, 7a-hexahydro-1H-benzimidazol-2-yl)-10-[1-(1-pyrrolidinyl)-2-propyl]phenothiazine | N1C(=NC2C1CCCC2)C2=CC=1N(C3=CC=CC=C3SC1C=C2)C(CN2CCCC2)C | C26H32N4S
solvent | ethyl ether | 34 cc | C(C)OCC | C4H10O
product | 2-(3a, 4, 5, 6, 7, 7a-Hexahydro-1H-benzimidazol-2-yl)-10-[1-(1-pyrrolidinyl)-2-propyl]-phenothiazine dihydrochloride | Cl.Cl.N1C(=NC2C1CCCC2)C2=CC=1N(C3=CC=CC=C3SC1C=C2)C(CN2CCCC2)C | InChI=1S/C26H32N4S.2ClH/c1-18(17-29-14-6-7-15-29)30-22-10-4-5-11-24(22)31-25-13-12-19(16-23(25)30)26-27-20-8-2-3-9-21(20)28-26;;/h4-5,10-13,16,18,20-21H,2-3,6-9,14-15,17H2,1H3,(H,27,28);2*1H
